US04381302
Step A: Preparation of Methyl 1,2,3,4,4a,5,6,7,8,8a-Decahydroisoquinoline-3-carboxylate
Methyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate hydrochloride (2.3 g, 10 mmol) in 200 ml absolute ethanol is hydrogenated at 50 psi, room temperature, using 0.6 g 5% Rh/C catalyst. After the theoretical amount of hydrogen is taken up (36 hours), the catalyst is filtered and the filtrate is evaporated to dryness. The residue is dissolved in methylene chloride and washed with a saturated solution of sodium carbonate. The organic phase is dried (Na2SO4) and acidified with ethanolic HCl. Evaporation of the solvent yields 2.0 g of the product as a diastereomeric mixture which is used without further separation.

reactant | Methyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate hydrochloride | 10 mmol, 2.3 g | Cl.C1NC(CC2=CC=CC=C12)C(=O)OC
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Rh/C | 0.6 g | [Rh] | Rh
product | Methyl 1,2,3,4,4a,5,6,7,8,8a-Decahydroisoquinoline-3-carboxylate | 2.0 g | C1NC(CC2CCCCC12)C(=O)OC | C11H19NO2
